US07592358B2
7.1b. 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine
Under an argon atmosphere, 2.62 mL (13.811 mmol) of tert-butylethynyldimethylsilane was added to a solution of 3.20 g (12.56 mmol) of 2,5-dibromo-3-fluoropyridine, 5.22 mL of triethylamine (37.67 mmol), 59.8 mg (0.31 mmol) of CuI, and 220.3 mg (0.31 mmol) of bis(triphenylphosphane)palladium (II) chloride in 30 mL of absolute THF at 15° C. and the mixture was stirred for 2 hours at RT. 1 mL of tert-butylethynyldimethylsilane was added and the mixture was again stirred for 1 hour at RT. The reaction mixture was evaporated down in vacuo and the residue was taken up in EtOAc. The organic phase was washed with semisaturated aqueous sodium bicarbonate solution, 5% aqueous ammonia, and water, dried over magnesium sulfate, and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, PE/DCM 9:1). Yield: 1.62 g (41% of theoretical); C13H17BrFNSi (M=314.269); calc.: molpeak (M+H)+: 314/316 (Br); found: molpeak (M+H)+: 314/316 (Br); HPLC-MS: 7.85 minutes (method B).

reactant | tert-butylethynyldimethylsilane | 13.811 mmol, 2.62 mL | C(C)(C)(C)[Si](C)(C)C#C | C8H16Si
reactant | 2,5-dibromo-3-fluoropyridine | 12.56 mmol, 3.20 g | BrC1=NC=C(C=C1F)Br | C5H2Br2FN
reactant | triethylamine | 37.67 mmol, 5.22 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylethynyldimethylsilane | 1 mL | C(C)(C)(C)[Si](C)(C)C#C | C8H16Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.31 mmol, 59.8 mg | [Cu]I
product | 5-bromo-2-[(tert-butyldimethylsilanyl)ethynyl]-3-fluoropyridine | BrC=1C=C(C(=NC1)C#C[Si](C)(C)C(C)(C)C)F | C13H17BrFNSi
